US09382228B2
A solution of N-(6-methyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-yl)acetamide (3.88 g, 12.00 mmol) in THF (30 mL) was treated with 2M HCl (30 mL, 60 mmol), heated at 65° C. for 6 h, cooled to RT and concentrated to dryness. The mixture was treated with H2O, neutralized with solid NaHCO3, extracted with EtOAc (2×) and the combined organics were washed with brine, dried over Na2SO4 and concentrated to dryness. The material was suspended in 3:2 EtOAc/Hex, sonicated and the resulting solid collected via filtration and dried to afford 6-methyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-amine (3.1 g, 92%) as a white solid. MS (ESI) m/z: 282.1 (M+H+).

reactant | N-(6-methyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-yl)acetamide | 12.00 mmol, 3.88 g | CC1=C(C=CC(=N1)NC(C)=O)OC1=CC(=NC=C1)C=1C=NN(C1)C | C17H17N5O2
reactant | HCl | 60 mmol, 2M, 30 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6-methyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-amine | 3.1 g, 92% | CC1=C(C=CC(=N1)N)OC1=CC(=NC=C1)C=1C=NN(C1)C | C15H15N5O
